US07211592B2
Compound 5: 6-Nitro-3H-benzo[1,2,3]oxathiazole 2,2-dioxide
A solution of 2-amino-5-nitrophenol (7.7 g, 50 mmol) in acetonitrile (300 ml) is treated with N-ethyldiisopropylamine (18.7 ml, 110 mmol) and N,N′-sulfuryldiimidazole (10.8 g, 55 mmol) and boiled at reflux for 18 h. After cooling to RT, the solvent is distilled off under reduced pressure, the residue is taken up in 1 N HCl and the product is extracted with ethyl acetate. The product is then purified by flash chromatography (17:2:1, EtOAc/MeOH/H2O).

reactant | 2-amino-5-nitrophenol | 50 mmol, 7.7 g | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | N-ethyldiisopropylamine | 110 mmol, 18.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N,N′-sulfuryldiimidazole | 55 mmol, 10.8 g | C1=CN(C=N1)S(=O)(=O)N2C=CN=C2 | C6H6N4O2S
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 6-Nitro-3H-benzo[1,2,3]oxathiazole 2,2-dioxide | [N+](=O)([O-])C1=CC2=C(NS(O2)(=O)=O)C=C1 | C6H4N2O5S
